US07067537B2
iv) Production of 3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoic acid
By the reaction in the same manner as in Example 77 using ethyl 3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoate (6.50 g) and 1N NaOH (80 ml), the title compound (5.27 g) was obtained as a colorless powder.

reactant | ethyl 3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoate | 6.50 g | CC1=C(C=NC=C1)C=1SC=C(N1)C=1C=C(C(=O)OCC)C=CC1 | C18H16N2O2S
solvent | NaOH | 1N, 80 ml | [OH-].[Na+]
product | 3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoic acid | 5.27 g | CC1=C(C=NC=C1)C=1SC=C(N1)C=1C=C(C(=O)O)C=CC1 | C16H12N2O2S
